Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary Angiography-including catheter placement
Percutaneous Coronary Intervention (DES in mLCX)

 
History of Present Illness:
___ with PMH significant for HLD who presents as a transfer from 
___ with chest pain. He reports chest pain began at 
approximately 10AM, described as central chest 
cramping/tightness with radiation down both arms, that began 
while he was running outside with his son. During the event he 
also had nausea, SOB, diaphoresis, and metallic taste in his 
mouth. He denies any prior history of chest pain. He states he 
is very active, does have recent increased work stress.  

___ initial troponin was 0.07 and he received ASA, SL 
NTG x 2 with complete resolution of symptoms.  

 In the ED initial vitals were: 98 68 ___ 98% RA  
 EKG: NSR, TWF II, aVL, V1. Q wave III, ?aVF  
 Labs/studies notable for: Trop 0.07 > 0.33  
 Patient was given: ASA, heparin gtt  
 Vitals on transfer: 98.0 68 124/77 18 99% RA  
 On the floor, patient denies chest pain.  
 
REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  

On further review of systems, patient denies myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. Denies 
exertional buttock or calf pain. Denies recent fevers, chills or 
rigors. All of the other review of systems were negative.  

 
Past Medical History:
- Dyslipidemia  
- Nephrolithiasis x 2  
- GERD  
 
Denies any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery. 
 
Social History:
___
Family History:
- Son with NHL  
- Mother: HLD  
- Father: HLD  
 
Physical ___:
ADMISSION PHYSICAL EXAM: 
======================
VS: 98.0 117/82 63 18 98% RA  
 GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB, No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  

DISCHARGE PHYSICAL EXAM: 
========================
VS: 98.4 126/76 63 18 98% RA  
 GENERAL: WDWN male in NAD.   
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB, No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  Right wrist with radial cath site cdi.
 NEURO: Oriented x3. Motor ___.
 PSYCH: Mood, affect appropriate.

 
Pertinent Results:
ADMISSION LABS: 
================
___ 09:25PM   GLUCOSE-82 UREA N-11 CREAT-0.8 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-24 ANION GAP-15
___ 09:25PM   ALT(SGPT)-31 AST(SGOT)-48* ALK PHOS-91 TOT 
BILI-0.5
___ 09:25PM   CK-MB-28* cTropnT-0.43*
___ 09:25PM   CALCIUM-8.7 PHOSPHATE-3.5 MAGNESIUM-2.1
___ 09:25PM   CALCIUM-8.7 PHOSPHATE-3.5 MAGNESIUM-2.1
___ 09:25PM   PLT COUNT-238
___ 09:25PM   ___ PTT-77.0* ___
___ 04:55PM   GLUCOSE-84 UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-25 ANION GAP-14
___ 04:55PM   estGFR-Using this
___ 04:55PM   estGFR-Using this
___ 04:55PM   WBC-9.1 RBC-4.58* HGB-13.7 HCT-42.0 MCV-92 
MCH-29.9 MCHC-32.6 RDW-12.2 RDWSD-40.9
___ 04:55PM   NEUTS-65.9 ___ MONOS-7.1 EOS-1.8 
BASOS-0.5 IM ___ AbsNeut-6.00 AbsLymp-2.22 AbsMono-0.65 
AbsEos-0.16 AbsBaso-0.05
___ 04:55PM   PLT COUNT-229
___ 04:55PM   ___ PTT-67.4* ___

INTERVAL LABS: 
==============
___ 06:00AM BLOOD WBC-8.3 RBC-4.84 Hgb-14.4 Hct-44.4 MCV-92 
MCH-29.8 MCHC-32.4 RDW-12.1 RDWSD-40.5 Plt ___
___ 05:10AM BLOOD WBC-10.7* RBC-4.65 Hgb-13.9 Hct-42.5 
MCV-91 MCH-29.9 MCHC-32.7 RDW-12.1 RDWSD-40.0 Plt ___
___ 05:10AM BLOOD Glucose-95 UreaN-13 Creat-0.8 Na-138 
K-4.2 Cl-104 HCO3-24 AnGap-14
___ 04:07AM BLOOD ALT-28 AST-40 AlkPhos-81 TotBili-0.4
___ 04:55PM BLOOD cTropnT-0.33*
___ 09:25PM BLOOD CK-MB-28* cTropnT-0.43*
___ 04:07AM BLOOD CK-MB-20* cTropnT-0.35*
___ 01:46PM BLOOD cTropnT-0.20*
___ 05:10AM BLOOD cTropnT-0.24*
___ 05:10AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.1

REPORTS: 
========

EKG OSH: NSR, TWF II, aVL, V1. Q wave III, ?aVF  

CATH (___): 
Coronary Anatomy Dominance: Right
The LMCA had no angiographically apparent CAD. The LAD had no 
significant stenosis. The Cx had a 60% ulcerated lesion with 
visible clot into moderatel sized bifurcating OM. The RCA had 
mild luminal
irregularities.

Interventional Details:
Based on diagnostic coronary angiogram we decided to proceed 
with PCI of the LCx. Based on the ulcerated appearance vs. clot 
we thought it was the culpruit lesion and unstable. A 6 ___ 
XB 3.5 guide
failed to engage the LMCA properly so we enganged the LMCA with 
a 6 ___ JL 3.5 guiding catheter, which provided good support 
for the procedure. Heparin boluses were given prophylactically 
and the patient was loaded with Plavix. A short Prowater wire 
crossed the lesion with minimal dificulty. We then direct 
stented with a 2.5*18 mm Resolute Integrity Rx ___ at 
16 ATM fro ___ and then postdilated
with a 3.5*15 mm NC Euphora Rx balloon at 18 ATM for ___ and 
then at 16 ATM for ___. Final angiogram revealed no residual 
stenosis, TIMI 3 flow and no visible evidence of dissection or 
ruputre.The patinet left the cath lab pain free and without any 
ECG signs of ischemia.
Intra-procedural Complications: None.
Impressions:
1. Single vessel disease.
 
Brief Hospital Course:
___ with PMH significant for HLD who presented as a transfer 
from OSH with chest pain, elevated cardiac enzymes and EKG 
findings consistent with NSTEMI. Patient underwent cath ___ 
with DES in mLCX.

#NSTEMI
#CAD
Patient presented with chest pain and was found to have elevated 
troponins with non specific TW changes on EKG. Initially started 
on ASA, plavix, metoprolol, atorvastatin and heparin drip. Trp 
downtrended. Chest pain resolved with SL nitro. Underwent 
cardiac cath ___ with PCI (DES to mLCX). Patient had 
episode of chest pain post procedurally which resolved with SL 
nitro. EKG remained stable. Otherwise, there were no 
complications. Patient discharged on ASA, Plavix, metoprolol, 
and atorvastatin. No indication for ACEi at this time. Please 
consider cardiac rehab as outpatient. 

#HLD: started on Atorvastatin. 

#TOBACCO USE: Counseled on tobacco cessation and given 
information for cessation.

TRANSITIONAL ISSUES:
====================
NEW MEDICATIONS: 
Aspirin 81 mg PO/NG DAILY
Atorvastatin 80 mg PO/NG QPM
Clopidogrel 75 mg PO DAILY
Metoprolol Tartrate 12.5 mg PO/NG BID
-Smoking cessation information provided on discharge, consider 
long term cessation tools as an outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Non ST Elevation Myocardial Infarction
Coronary Artery Disease

SECONDARY DIAGNOSIS: 
Hyperlipidemia
Tobacco use 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital because you had chest pain and 
lab work which showed you were having a heart attack.

What was done while I was in the hospital?
==============================================
- You were given heart healthy medicines to treat your heart 
attack
- You had a procedure (heart catheterization) which showed a 
blockage in one of your heart vessels. You had a stent (drug 
eluting stent) placed to open up the blockage.

What should I do now that I am going home? 
==============================================
- Stop smoking cigarettes
- Fruits, vegetables, and foods with fiber can help prevent 
heart disease 
- Avoid foods with “trans” fats, which are found in many fast 
foods as well as foods with “Saturated” fats, which are found in 
red meats and many cheeses
- Please follow-up with your PCP ___ at 12:30P), who will 
help connect you with a cardiologist. 

-It is very important to take all of your heart healthy 
medications. Very importantly, you are now taking aspirin and 
clopidogrel (also known as Plavix). These two medications keep 
the stents in the vessels of the heart open and help reduce your 
risk of having a future heart attack. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming in your heart stents, and you may die from a massive 
heart attack. 

Please do not stop taking either medication without taking to 
your heart doctor, even if another doctor tells you to stop the 
medications.  

Thank you for allowing us to participate in your medical care.
-Your ___ Team
 
Followup Instructions:
___